US04906634
N-[ 2-(Cyclopentyl)ethyl]-N'-(4-nitrophenyl)-N-phenyl-methyl-1,3-propanediamine
In a manner similar to Preparation 1 react 4-fluoro1-nitrobenzene with N-[2-(cyclopentyl)ethyl]-N-phenyl-methyl-1,3-propanediamine to obtain the title compound.

reactant | 4-fluoro1-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N-[2-(cyclopentyl)ethyl]-N-phenyl-methyl-1,3-propanediamine | C1(CCCC1)CCN(C(CCN)C)C1=CC=CC=C1 | C17H28N2
product | N-[ 2-(Cyclopentyl)ethyl]-N'-(4-nitrophenyl)-N-phenyl-methyl-1,3-propanediamine | C1(CCCC1)CCN(C(CCNC1=CC=C(C=C1)[N+](=O)[O-])C)C1=CC=CC=C1 | C23H31N3O2
